US08404861B2
Production of 2-methyl-5-n-propyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (Compound No. 3-1)
5-n-Propyl-2-methylaniline (14.9 g, 0.1 mol) was diluted in a mixed solvent (300 ml) of tert-butyl methyl ether-water (1:1), and heptafluoroisopropyl iodide (29.6 g, 0.1 mol), tetrabutylammonium hydrogen sulfate (3.4 g, 0.01 mol), sodium hydrogen carbonate (8.4 g, 0.1 mol) and sodium dithionite (17 g, 0.1 mol) were successively added. The mixture was stirred overnight at room temperature. The reaction mixture was diluted in hexane, washed twice with 3N hydrochloric acid, and washed with aqueous sodium hydrogen carbonate and saturated brine. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate 5:1) to give the desired compound (28.5 g).

reactant | 5-n-Propyl-2-methylaniline | 0.1 mol, 14.9 g | C(CC)C=1C=CC(=C(N)C1)C | C10H15N
reactant | heptafluoroisopropyl iodide | 0.1 mol, 29.6 g | FC(C(C(F)(F)F)(F)I)(F)F | C3F7I
reactant | sodium hydrogen carbonate | 0.1 mol, 8.4 g | C(O)([O-])=O.[Na+]
reactant | sodium dithionite | 0.1 mol, 17 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 0.01 mol, 3.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | CCCCCC | C6H14
solvent | tert-butyl methyl ether water | 300 ml | COC(C)(C)C.O
product | 2-methyl-5-n-propyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 28.5 g, yield: 90% | CC1=C(N)C=C(C(=C1)C(C(F)(F)F)(C(F)(F)F)F)CCC | C13H14F7N
